US05064833
B. Preparation of 8-methoxy-2,4-quinazolinedione
3-Methoxyanthranilic acid (6 g, 0.036 mol) was suspended in water (200 ml, 35°) and glacial acetic acid (2.2 ml). A freshly prepared solution of potassium cyanate (3.7 g, 0.046 mol) in water (20 ml) was added dropwise to the stirred mixture. After 2 hours, sodium hydroxide (48.5 g 1.21 mol) was added in portions keeping the temperature below 40°. A clear solution was obtained momentarily before precipitating the hydrated sodium salt. After cooling, the precipitate was filtered off, dissolved in hot water which was acidified to pH 5, causing precipitation of 8-methoxy-2,4-quinazolinedione (4.6 g, 58%) m.p. 255°-257°.

reactant | 3-Methoxyanthranilic acid | 0.036 mol, 6 g | COC1=C(C(C(=O)O)=CC=C1)N | C8H9NO3
reactant | acetic acid | 2.2 ml | C(C)(=O)O | C2H4O2
reactant | potassium cyanate | 0.046 mol, 3.7 g | [O-]C#N.[K+]
reactant | sodium hydroxide | 1.21 mol, 48.5 g | [OH-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 8-methoxy-2,4-quinazolinedione | COC=1C=CC=C2C(NC(NC12)=O)=O | C9H8N2O3
